US06211378B1
1-(3-Methylbenzyl)oxy-2,2,6,6-tetramethylpiperidin-4-yl Benzoate
A mixture of 13.77 g (0.05 mol) of 1-oxyl-4-benzoyloxy-2,2,6,6-tetramethylpiperidine and 106.17 g (1.0 mol) of m-xylene under a nitrogen atmosphere is heated at reflux for 50 hours. The reaction mixture is filtered to remove the hydroxylamine, and the filtrate is washed with 10 w/v % ascorbic acid (1×50 mL) and distilled water (2×50 mL). The organic phase is dried over anhydrous sodium sulfate and the volatiles are removed in vacuo. The residue is recrystallized from isopropyl alcohol to give 5.62 g (59% yield) of a white solid melting at 64-65° C.

reactant | 1-oxyl-4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 0.05 mol, 13.77 g | ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C | C16H23NO3
reactant | m-xylene | 1.0 mol, 106.17 g | C1(=CC(=CC=C1)C)C | C8H10
product | 1-(3-Methylbenzyl)oxy-2,2,6,6-tetramethylpiperidin-4-yl Benzoate | 5.62 g, 59% yield | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCC1=CC(=CC=C1)C)(C)C | C24H31NO3
